US07208493B2
4-Hydroxy-N-(2-(1H-indol-2-yl)-phenyl)-benzamide
Prepared from 2-(2-aminophenyl) indole and 4-hydroxybenzoic acid in 35% overall yield following procedure 1. The product was chromatographed on silica and crystallized from acetonitrile. 95.6% Purity by LC/MS (230 DAD) Mass-spec (M+H+)=329.8 1H NMR (MeOH-d4): 6.65 s (1H), 6.83 m (2H), 7.01 t, 7 Hz (1H), 7.12 td, 7.1 Hz (1H), 7.34 td, 7.1 Hz (1H), 7.39–7.43 m (2H), 7.51 d, 7 Hz (1H), 7.66 dd, 8.1 Hz (1H), 7.76 m (2H), 7.91 dd, 8.1 Hz (1H).

reactant | 2-(2-aminophenyl) indole | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
product | 4-Hydroxy-N-(2-(1H-indol-2-yl)-phenyl)-benzamide | OC1=CC=C(C(=O)NC2=C(C=CC=C2)C=2NC3=CC=CC=C3C2)C=C1 | C21H16N2O2
